US07511050B2
Step C: 6-Amino-5-nitroso-1-pentyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one
6-Amino-1-pentyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one (8.0 g, 0.038 mol) was mixed with sodium nitrite (3.1 g, 0.045 mol) in acetic acid (120 mL). The mixture was stirred at 75° C. for 1 h. The color of the reaction mixture became pink and then purple. The solution was allowed to cool down to room temperature, and water (40 mL) was added. The solid was collected by suction filtration and washed with water (50 mL) to produce the desired product, which was used directly for next step without further purification. LCMS calculated for C9H15N4O2S: (M+H) 243.1; found 243.1.

reactant | 6-Amino-1-pentyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 0.038 mol, 8.0 g | NC1=CC(NC(N1CCCCC)=S)=O | C9H15N3OS
reactant | sodium nitrite | 0.045 mol, 3.1 g | N(=O)[O-].[Na+]
reactant | water | 40 mL | O | H2O
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
product | 6-Amino-5-nitroso-1-pentyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | NC1=C(C(NC(N1CCCCC)=S)=O)N=O | C9H14N4O2S
